US05821366
1-BENZYL-3-(3-CHLOROPHENYL)-1-(CYANOACETYL)UREA
A mixture of 1-benzyl-3-(3-chlorophenyl)urea (44.78 g) and cyanoacetic acid (16.11 g) was ground together and then acetic anhydride (48 ml) added. The resulting mixture was heated and stirred at 75°-80° C. for 16 h. It was then allowed to cool, diluted with ether and the product filtered off and washed with ether. This was then recrystallised from toluene with a hot filtration. Yield=20.15 g.

reactant | 1-benzyl-3-(3-chlorophenyl)urea | 44.78 g | C(C1=CC=CC=C1)NC(=O)NC1=CC(=CC=C1)Cl | C14H13ClN2O
reactant | cyanoacetic acid | 16.11 g | C(#N)CC(=O)O | C3H3NO2
reactant | acetic anhydride | 48 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | CCOCC | C4H10O
product | 1-BENZYL-3-(3-CHLOROPHENYL)-1-(CYANOACETYL)UREA | C(C1=CC=CC=C1)N(C(=O)NC1=CC(=CC=C1)Cl)C(CC#N)=O | C17H14ClN3O2
